US06518267B1
c) 3-(4-Methylpiperazinyl)-benzoic Acid
3-(4-Methylpiperazinyl)-benzoic acid tert-butyl ester (4.1 g, 14.9 mmol) was dissolved in TFA: CH2Cl2 (70 ml, 1:1) and the reaction was stirred for 2 h at RT. The reaction mixture was diluted with toluene (100 ml), then was concentrated in vacuo and was used in the next reaction without further purification: MS (ES+) 221.3 (M+H+).

reactant | 3-(4-Methylpiperazinyl)-benzoic acid tert-butyl ester | 14.9 mmol, 4.1 g | C(C)(C)(C)OC(C1=CC(=CC=C1)N1CCN(CC1)C)=O | C16H24N2O2
reactant | CH2Cl2 | 70 ml | C(Cl)Cl | CH2Cl2
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-Methylpiperazinyl)-benzoic Acid | CN1CCN(CC1)C=1C=C(C(=O)O)C=CC1 | C12H16N2O2
